US06143762
4-Phthalimidobutyraldehyde Diethyl Acetal
A solution of 4-aminobutyraldehyde diethyl acetal (48.5 g, 0.3 mol) in tetrahydrofuran (60 ml) was added dropwise to a stirred slurry of N-(ethoxycarbonyl) phthalimide (65.93 g, 0.3 mol) in tetrahydrofuran (250 ml) at 0° C. After stirring at 0° C. for 0.16 h and at room temperature for 18 h the solvent was removed in vacuo and the residue distilled at 1 mmHg to remove the ethyl carbamate by-product. The residual brown oil was allowed to cool to afford the title compound (91 g, 93%).

reactant | 4-aminobutyraldehyde diethyl acetal | 0.3 mol, 48.5 g | C(C)OC(CCCN)OCC | C8H19NO2
reactant | N-(ethoxycarbonyl) phthalimide | 0.3 mol, 65.93 g | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-Phthalimidobutyraldehyde Diethyl Acetal | 91 g, 93% | C(C)OC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)OCC | C16H21NO4
